US05830901
A mixture of 3-dimethylaminomethyl- 1H-pyrrolo[2,3-b]pyridine (1.57 g, 9 mmol) and (E)-4-[2-(4-fluorophenyl)ethenyl]-1,2,3,6-tetrahydropyridine (2 g, 9 mmol) in toluene (50 ml) was refluxed overnight. The hot solution was filtered, and the product crystallised from toluene to give (E)-3-[4-[2-(4-fluorophenyl)ethenyl]-1,2,3,6-tetrahydropyridin-1-yl]methylpyrrolo[2,3-b]pyridine (1.2 g, 40%). M.p. 211°-213° C. (isopropanol). (Found: C, 75.05; H, 5.99; N,12.27; C21H20 FN3, 0.15H2O requires C, 75.04; H, 6.09; N, 12.50%); δH (DMSO-d6) 2.29 (2H, br s, tetrahydropyridinyl CH2), 2.61 (2H, t, J 5.6 Hz tetrahydropryridinyl CH2), 3.06 (2H, br s, tetrahydropyridinyl CH2), 3.73 (2H, s, NCH2Ar), 5.87 (1H, br s, tetrahydropyridinyl 5-CH), 6.45 (1H, d, J 16.3 Hz, ArCHCHC), 6.83 (1H, d, J 16.3 Hz, ArCHCHC), 7.01-7.04 (1H, m, ArH), 7.14 (2H, t, J 8.9 Hz, ArH), 7.38 (1H, s, ArH), 7.47-7.51 (2H, m, ArH), 8.02 (1H, d, J 7.9 Hz, ArH), 8.18-8.20 (1H, m, ArH) and 11.45 (1H, br s, NH); m/z (CI+, NH3), 334 (M+1)+.

reactant | 3-dimethylaminomethyl- 1H-pyrrolo[2,3-b]pyridine | 9 mmol, 1.57 g | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
reactant | (E)-4-[2-(4-fluorophenyl)ethenyl]-1,2,3,6-tetrahydropyridine | 9 mmol, 2 g | FC1=CC=C(C=C1)/C=C/C=1CCNCC1 | C13H14FN
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[4-[2-(4-fluorophenyl)ethenyl]-1,2,3,6-tetrahydropyridin-1-yl]methylpyrrolo[2,3-b]pyridine | 1.2 g, 40% | FC1=CC=C(C=C1)/C=C/C=1CCN(CC1)CC1=CNC2=NC=CC=C21 | C21H20FN3
